US08471005B2
[2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-acetic acid tert-butyl ester (0.298 g, 0.769 mmol), Methylene chloride (11 mL, 170 mmol), and Trifluoroacetic Acid (2.20 mL, 28.5 mmol) were combined and stirred for 18 hours. The product was extracted into dichloromethane and purified by normal phase silica gel chromatography eluting with methanol/dichloromethane to yield a brown solid, [2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-acetic acid (197 mg, 77%). LCMS: m/z=332.06 (M+H+); 1H NMR (400 MHz, DMSO-d6) δ 9.30 (s, 1H), 7.86 (d, 1H, J=7.6 Hz), 7.54 (d, 1H, J=4.7 Hz), 7.46 (m, 1H), 7.31 (d, 1H, J=4.7 Hz), 7.14 (m, 2H), 4.77 (s, 2H), 2.92 (s, 3H).

reactant | [2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-acetic acid tert-butyl ester | 0.769 mmol, 0.298 g | C(C)(C)(C)OC(COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)S(=O)C)=O | C19H21N3O4S
reactant | Methylene chloride | 170 mmol, 11 mL | C(Cl)Cl | CH2Cl2
reactant | Trifluoroacetic Acid | 28.5 mmol, 2.20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [2-(2-Methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenoxy]-acetic acid | 197 mg, 77% | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(OCC(=O)O)C=CC=C2 | C15H13N3O4S
